US07319101B2
e) Methyl 2,3-dihydroxy-5-trifluoromethyl-benzoate
To a solution of methyl 2,3-bis-benzyloxy-5-trifluoromethyl-benzoate (280 mg, 0.67 mmol) in 10 mL MeOH, Pd/C (10%, 30 mg) was added and the mixture was stirred 16 h under a H2 atmosphere. The reaction mixture was then filtered through Celite and evaporated in vacuo to yield the title compound as a greyish solid.

reactant | methyl 2,3-bis-benzyloxy-5-trifluoromethyl-benzoate | 0.67 mmol, 280 mg | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=C(C=C1OCC1=CC=CC=C1)C(F)(F)F | C23H19F3O4
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd/C | 30 mg | [Pd] | Pd
product | Methyl 2,3-dihydroxy-5-trifluoromethyl-benzoate | OC1=C(C(=O)OC)C=C(C=C1O)C(F)(F)F | C9H7F3O4
